US08486970B2
To 410 mg of tert-butyl{2-[3-(2,4-dichlorophenyl)-1-oxo-4-[(2-phenylethyl)carbamoyl]-3,4-dihydroisoquinolin-2(1H)-yl]ethyl}carbamate was added 4 ml of a 4 M hydrogen chloride/ethyl acetate solution, followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and chloroform and a 1 M aqueous sodium hydroxide solution were then added to carry out a liquid separation operation. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then evaporated under reduced pressure. The obtained residue was recrystallized from ethyl acetate-hexane to obtain 192 mg of 2-(2-aminoethyl)-3-(2,4-dichlorophenyl)-1-oxo-N-(2-phenylethyl)-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless powdered crystal.

reactant | tert-butyl{2-[3-(2,4-dichlorophenyl)-1-oxo-4-[(2-phenylethyl)carbamoyl]-3,4-dihydroisoquinolin-2(1H)-yl]ethyl}carbamate | 410 mg | C(C)(C)(C)OC(NCCN1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(NCCC1=CC=CC=C1)=O)=O)=O | C31H33Cl2N3O4
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
product | 2-(2-aminoethyl)-3-(2,4-dichlorophenyl)-1-oxo-N-(2-phenylethyl)-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 192 mg | NCCN1C(C2=CC=CC=C2C(C1C1=C(C=C(C=C1)Cl)Cl)C(=O)NCCC1=CC=CC=C1)=O | C26H25Cl2N3O2
